US05321135
Synthesis of (S)-(E)-2-[3,4-dimethoxy-5-(4-nitrobenzyloxy)benzylidene]-3-(3,4,5-trimethoxybenzyl)butanolide:
A solution of (S)-(E)-2-(3,4-dimethoxy-5-hydroxybenzylidene)-3-(3,4,5-trimethoxybenzyl)butanolide (7.5 g, 17.4 mmol), p-nitrobenzyl bromide (4.6 g, 21.3 mmol) and potassium carbonate (3.0 g, 21.7 mmol) in 100 ml of acetone was heated under reflux for 3.5 hours. After the solvent was distilled off under reduced pressure, the residue was added with water and then ethyl acetate. The organic layer was washed successively with 2N-HCl, water, saturated NaHCO3 and saturated NaCl and then, dried over anhydrous magnesium sulfate. The solvent was thereafter distilled off. The residue thus obtained was purified by column chromatography, whereby 9 g of the title compound were obtained as colorless foam (yield: 91%).

reactant | (S)-(E)-2-(3,4-dimethoxy-5-hydroxybenzylidene)-3-(3,4,5-trimethoxybenzyl)butanolide | 17.4 mmol, 7.5 g | COC=1C=C(\C=C/2\C(=O)OC[C@H]2CC2=CC(=C(C(=C2)OC)OC)OC)C=C(C1OC)O | C23H26O8
reactant | p-nitrobenzyl bromide | 21.3 mmol, 4.6 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | potassium carbonate | 21.7 mmol, 3.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | (S)-(E)-2-[3,4-dimethoxy-5-(4-nitrobenzyloxy)benzylidene]-3-(3,4,5-trimethoxybenzyl)butanolide | 9 g | COC=1C=C(\C=C/2\C(=O)OC[C@H]2CC2=CC(=C(C(=C2)OC)OC)OC)C=C(C1OC)OCC1=CC=C(C=C1)[N+](=O)[O-] | C30H31NO10
